US06300330B1
A stirred solution of piperazine (1.15 g, 13.4 mmol) and triethylamine (4.7 ml, 46.5 mmol) in dichloromethane (30 ml) was cooled to −5° C., and a solution of 5-chlorobenzofuran-2-sulphonyl chloride (1.69 g, 7.8 mmol) in dichloromethane (10 ml) was added. Stirring was continued for 15 mins, and the reaction mixture then allowed to warm to ambient temperature over 2 hrs with stirring. Water was added to the reaction mixture, and the organic layer separated; this was washed with water (twice), brine (once), then dried (MgSO4), filtered and evaporated to give a yellow gum. This was chromatographed (Merck Art 9385 silica, eluting with dichloromethane containing increasing amounts of methanol, up to 10% v/v) to give a yellow solid; trituration with diethyl ether gave 5-chlorobenzofuran-2-ylsulphonyl piperazine as a colourless solid (1.11 g) which was used without further purification, 1H NMR (CDCl3) δ=2.8-3.0 ppm (t, 4H), δ=3.2-3.4 ppm (t, 4H), δ=7.3 ppm (s, 1H), δ=7.45 ppm (dd, 2H), δ=7.7 ppm (s, 1H); MS (M+H)+ 301/303.

reactant | piperazine | 13.4 mmol, 1.15 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 46.5 mmol, 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chlorobenzofuran-2-sulphonyl chloride | 7.8 mmol, 1.69 g | ClC=1C=CC2=C(C=C(O2)S(=O)(=O)Cl)C1 | C8H4Cl2O3S
reactant | Water | O | H2O
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-chlorobenzofuran-2-ylsulphonyl piperazine | 1.11 g | ClC1NCCN(C1)S(=O)(=O)C=1OC2=C(C1)C=CC=C2 | C12H13ClN2O3S
